US08022075B2
5-[4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-1,3-oxazole (3)
4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)benzaldehyde (647 mg) and p-toluenesulfonylmethyl isocyanide (454 mg) were dissolved in methanol (10 mL), and potassium carbonate (321 mg) was added to the solution at room temperature, followed by refluxing for 13 hours. The precipitated product was recovered through filtration and dried, to thereby yield the title compound (330 mg).

reactant | 4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)benzaldehyde | 647 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=O)C=C2 | C14H9IN2O
reactant | p-toluenesulfonylmethyl isocyanide | 454 mg | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium carbonate | 321 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
product | 5-[4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-1,3-oxazole | 330 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C2=CN=CO2 | C16H10IN3O
